US05866611
A solution of 2-bromotoluene (1.0 g) in dry tetrahydrofuran (50 ml) was cooled to -70° C. under an atmosphere of argon. A solution of tert-butyl lithium in pentane (1.7M, 7.6 ml) was added dropwise to the mixture whilst maintaining the temperature below -60° C. The reaction mixture was stirred at -70° C. for 0.5 hours. Trimethyl borate (0.73 ml) was added and the mixture allowed to warm to ambient temperature. The mixture was poured onto a mixture of aqueous 2M hydrochloric acid and ice, and the mixture extracted with ethyl acetate. The ethyl acetate extract was washed with brine, dried (MgSO4) and evaporated to give 2-methylphenylboronic acid as a white solid (0.48 g) which was used without further purification.

reactant | 2-bromotoluene | 1.0 g | BrC1=C(C=CC=C1)C | C7H7Br
reactant | tert-butyl lithium | C(C)(C)(C)[Li]
reactant | Trimethyl borate | 0.73 ml | B(OC)(OC)OC | C3H9BO3
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | pentane | 1.7M, 7.6 ml | CCCCC | C5H12
product | 2-methylphenylboronic acid | 0.48 g | CC1=C(C=CC=C1)B(O)O | C7H9BO2
